US05466706
6-Chloro-N,N,9-trimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide.
16.5 g (0.043 mol) of 6-chloro-α-hydroxy-N,N,9-trimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide are treated with 90 ml of thionyl chloride in 250 ml of dichloromethane. The mixture is stirred for 6 h and allowed to stand overnight. The solvent and excess thionyl chloride are evaporated under reduced pressure. The residue is taken up in toluene and the mixture is again evaporated. The residue is dissolved in 800 ml of dichloromethane and treated with 26.5 g of Rongalite®. The mixture is stirred for 48 h and the insoluble matter is then separated by filtration. The organic phase is washed with sodium bicarbonate and then with water. The solvent is evaporated under reduced pressure and the residue is taken up in pentane. 14.96 g of solid are obtained which are purified by silica gel column chromatography, eluting with a dichloromethane/methanol 95/5 mixture. 8.59 g of product are isolated, of which a sample of 1.4 g is taken and dissolved in dichloromethane. The solution is filtered and the filtrate is concentrated under reduced pressure. The residue is treated with carbon black in methanol, and the product is then recrystallized from an N,N-dimethylformamide/water 2/1 mixture and 0.98 g of solid is obtained. Melting point: 233°-236° C.

reactant | 6-chloro-α-hydroxy-N,N,9-trimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide | 0.043 mol, 16.5 g | ClC=1C=CC2=C(N3C(N2C)=NC(=C3C(C(=O)N(C)C)O)C3=CC=CC=C3)C1 | C20H19ClN4O2
reactant | thionyl chloride | 90 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 6-Chloro-N,N,9-trimethyl-2-phenyl-9H-imidazo[1,2-a]benzimidazole-3-acetamide | 14.96 g | ClC=1C=CC2=C(N3C(N2C)=NC(=C3CC(=O)N(C)C)C3=CC=CC=C3)C1 | C20H19ClN4O
